US07193023B2
Synthesis of 2-Ethoxy-2-ethyl trifluoromethacrylate (EETFMA)
14.0 g of 2-trifluoromethylacrylic acid (2-TFMAA) and 30 g of ethyl vinyl ether were stirred at room temperature under nitrogen and using a DRY ICE condenser. The initial endotherm gave way to a mild exotherm to approximately 33° C. and some outgassing (reflux). The reaction was complete in 15 minutes. Et2O added. Organics were washed with 10% Na2CO3 (containing a small amount of NaOH), saturated NaHCO3 and finally brine followed by drying with MgSO4. Evaporated on rotary evaporator at 30° C. Yield 29.0 g of colorless liquid.

reactant | 2-trifluoromethylacrylic acid | 14.0 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | ethyl vinyl ether | 30 g | C(=C)OCC | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 2-Ethoxy-2-ethyl trifluoromethacrylate | FC(C(C(=O)OC(C)OCC)=C)(F)F | C8H11F3O3
